US04755323
A solution of 4.06 g. 4-hydroxymethyl-3-oxa-1-phenyl-nonan-1-ol 1-mono-p-toluene sulphonate (obtainable by reaction of styrene oxide with heptane-1,2-diol and partial tosylation of the 4-hydroxymethyl-3-oxa-1-phenylnonan-1-ols obtained) in 100 ml. phosphoric acid hexamethyltriamide is heated for 24 hours to 80°. One evaporates, works up as usual and obtains 2-phenyl-5-pentyl-1,4-dioxane as an oily isomer mixture. Isomerization of 1 g. of the mixture by 2 hours heating with 0.05 g. K tert.-butylate in 10 ml. dimethyl sulphoxide to 80° leads to trans-2-phenyl-5-pentyl-1,4-dioxane.

reactant | 4-hydroxymethyl-3-oxa-1-phenyl-nonan-1-ol 1-mono-p-toluene sulphonate | C1(=CC=C(C=C1)S(=O)(=O)OC(CCC(CCCCC)CO)C=1COC=CC1)C | C22H32O5S
reactant | styrene oxide | C1C(C2=CC=CC=C2)O1 | C8H8O
reactant | heptane-1,2-diol | C(C(CCCCC)O)O | C7H16O2
solvent | phosphoric acid hexamethyltriamide | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2-phenyl-5-pentyl-1,4-dioxane | C1(=CC=CC=C1)C1OCC(OC1)CCCCC | C15H22O2
